US07429594B2
1-Amino-3-phenyl-propan-2-ol
To a stirring solution of 1-azido-3-phenyl-propan-2-ol (590 mg, 3.4 mmol) in 20 mL methanol under a nitrogen atmosphere was added 10 mg of Pd(OH)2/C (10%). Hydrogen gas was delivered via balloon. The solution was stirred overnight at room temperature. The catalyst was removed by filtering the solution through a bed of celite, and the filtrate was concentrated to give a clear oil under reduced pressure. M+1=152.

reactant | 1-azido-3-phenyl-propan-2-ol | 3.4 mmol, 590 mg | N(=[N+]=[N-])CC(CC1=CC=CC=C1)O | C9H11N3O
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd(OH)2/C | 10 mg | [OH-].[OH-].[Pd+2]
product | 1-Amino-3-phenyl-propan-2-ol | NCC(CC1=CC=CC=C1)O | C9H13NO
